US08580957B2
Ethyl 4-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoate (for a preparation see intermediate 53) (25.33 g, 57.8 mmol) was added to a cold (ice/water bath) suspension of aluminum chloride (29.24 g, 219 mmol) in DCM (450 mL). The resulting solution was stirred at approximately 0° C. for 35 min then a solution of triethylamine (96 mL, 693 mmol) and methanol (50 mL) was added over 30 s. The resulting mixture was stirred for approximately 1 h in the ice bath, and then partitioned between AcOEt and a saturated NaHCO3 aqueous solution. The mixture was filtered through Celite, and the residue washed with AcOEt and a saturated NaHCO3 aqueous solution (several times each). The layers were separated and the aqueous phase was extracted with AcOEt (×2). The combined organic phases were washed with brine, dried using a hydrophobic frit and concentrated in vacuovacuo. The solid obtained was dissolved, with warming, in AcOEt, filtered through Celite in order to remove remaining inorganics and the insoluble material was washed with warm AcOEt. The combined filtrate and washings were concentrated in vacuo to give a first batch of ethyl 4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]benzoate (15.0 g, 42.6 mmol, 74%) as a cream solid The solid residue on celite was further washed with acetone, and the filtrate concentrated in vacuovacuo. The residue was partially dissolved in AcOEt, filtered through a hydrophobic frit and the filtrate was concentrated vacuo to give a second batch of ethyl 4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]benzoate (2.78 g, 7.9 mmol, 14%) as a cream foam.

reactant | Ethyl 4-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)OCC)C=C1)NC(=O)OC(C)C)C | C25H30N2O5
reactant | aluminum chloride | 219 mmol, 29.24 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | triethylamine | 693 mmol, 96 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 50 mL | CO | CH4O
solvent | DCM | 450 mL | C(Cl)Cl | CH2Cl2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | ethyl 4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]benzoate | 42.6 mmol, 15.0 g, 74% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)OCC)C=C1)N)C | C21H24N2O3
